US04725600
The mixture of 4-chloro-6-(3,4-dimethoxyphenyl)-2-methylpyrimidine (2.0 g) and 2,4,6-trimethylaniline (5.3 ml) was stirred at 120° C. for an hour. After cooled, the mixture was triturated with ethyl acetate. The precipitates were collected, and dissolved in chloroform. The solution was washed with aqueous sodium bicarbonate solution, dried over magnesium sulfate, and evaporated to give 6-(3,4-dimethoxyphenyl)-2-methyl-4-(2,4,6-trimethylphenylamino)pyrimidine (2.39 g).

reactant | 4-chloro-6-(3,4-dimethoxyphenyl)-2-methylpyrimidine | 2.0 g | ClC1=NC(=NC(=C1)C1=CC(=C(C=C1)OC)OC)C | C13H13ClN2O2
reactant | 2,4,6-trimethylaniline | 5.3 ml | CC1=C(N)C(=CC(=C1)C)C | C9H13N
product | 6-(3,4-dimethoxyphenyl)-2-methyl-4-(2,4,6-trimethylphenylamino)pyrimidine | 2.39 g | COC=1C=C(C=CC1OC)C1=CC(=NC(=N1)C)NC1=C(C=C(C=C1C)C)C | C22H25N3O2
